Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
gadulinium / gabapentin / Bactrim / metoprolol / losartan
 
Attending: ___.
 
Chief Complaint:
Hiatal hernia, GERD
 
Major Surgical or Invasive Procedure:
___ Laparoscopic hiatal hernia repair and Nissen 
fundoplication

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of significant 
acid reflux, pooly controlled on medication. His pH test was 
positive and his manometry was within normal limits. The patient 
presented to ___ on ___ for laparoscopic repair of his 
known hiatal hernia and fundoplication for management of his 
refractory reflux symptoms. 
 
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
hypertension
arthritis in his back and knees  
s/p multiple back surgeries 
Back stimulator implanted ___
 
Social History:
___
Family History:
Mother: lung cancer
Father: died leukemia

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

Vitals: Temp 97.7  HR 64  BP 121/74  RR 18  93% RA

General: awake, alert, no acute distress
HEENT: trachea midline
Cardiovascular: regular rate and rhythm
Pulmonary: normal respiratory effort, clear to auscultation 
bilaterally
GI: abdomen soft, non-distended but obese, tender to palpation 
at lap incision sites, no rebound or guarding
Extremities: warm and well perfused, no edema
Wound: lap incisions clean/dry/intact with dermabond
 
Pertinent Results:
Discharge labs: ___

WBC-8.3 RBC-4.45* Hgb-12.4* Hct-37.1* Plt ___
Glucose-128* UreaN-16 Creat-1.0 Na-139 K-4.3 Cl-100 HCO3-27 
AnGap-12
Calcium-8.7 Phos-3.5 Mg-1.9
 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ for 
a laparoscopic hiatal hernia repair and Nissen fundoplication. 
He tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.

Neuro: Pain was well controlled on oxycodone and Tylenol. 
Toradol was used for adjunct pain control in the immediate post 
operative period. 

CV: Vital signs were routinely monitored during the patient's 
length of stay.

Pulm: The patient was encouraged to ambulate, sit and get out of 
bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.  

GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge.

GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
 
ID: The patient's vital signs were monitored for signs of 
infection and fever, of which there were none.

Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.

On ___, the patient was discharged home. At discharge, he 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic in ___ 
weeks. This information was communicated to the patient directly 
prior to discharge.
 
Medications on Admission:
Albuterol inhaler PRN
Amlodipine 10 mg daily 
Valium 2 mg qhs PRN
DICLOFENAC SODIUM [VOLTAREN]
Omeprazole 20 mg BID
Oxycodone ___ q4 PRN pain
OxyContin 40 mg TID
Ranitidine 300 mg qhs
ZOLPIDEM [AMBIEN] qhs
LACTOBACILLUS COMBINATION NO.4 [PROBIOTIC]
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea, wheeze  
4.  amLODIPine 10 mg PO DAILY  
5.  Diazepam 2 mg PO QHS:PRN insomnia, anxiety  
6.  Omeprazole 40 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
8.  DICLOFENAC SODIUM [VOLTAREN]
9.  OxyContin 40 mg TID
10. Ranitidine 300 mg qhs
11. ZOLPIDEM [AMBIEN] qhs
12. LACTOBACILLUS COMBINATION NO.4 [PROBIOTIC]
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hiatal hernia, GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 HIATAL HERNIA REPAIR/FUNDOPLICATION/MYOTOMY

 Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Difficult or painful swallowing
-Nausea, vomiting.
-Increased shortness of breath

Pain
-Take Tylenol on a standing basis to reduce opiod use.
-Take stool softners while taking narcotics
-No driving while taking narcotics

Activity
-Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
-No tub bathing, swimming or hot tubs until incision healed
-No lotions or creams to incision
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily

Diet:
Full liquid diet for ___ days. Increase to soft solids as 
tolerates

Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

NO CARBONATED DRINKS
 
Followup Instructions:
___